US08497274B2
(ii) Production of N-[3-(2-cyano-4-nitrophenoxy)phenyl]-2,2,2-trifluoroacetamide
To a solution of 2-(3-aminophenoxy)-5-nitrobenzonitrile (2.50 g, 9.79 mmol) in tetrahydrofuran (25 mL) was added trifluoroacetic anhydride (1.62 mL, 11.6 mmol), and the mixture was stirred at room temperature for 14 hr. The reaction mixture was diluted with ethyl acetate (200 ml), washed successively with water (100 mL), 5% aqueous sodium hydrogen carbonate solution (100 mL×2) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (3.17 g, 92%) as a yellow oil.

reactant | 2-(3-aminophenoxy)-5-nitrobenzonitrile | 9.79 mmol, 2.50 g | NC=1C=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=CC1 | C13H9N3O3
reactant | trifluoroacetic anhydride | 11.6 mmol, 1.62 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(2-cyano-4-nitrophenoxy)phenyl]-2,2,2-trifluoroacetamide | 3.17 g, 92% | C(#N)C1=C(OC=2C=C(C=CC2)NC(C(F)(F)F)=O)C=CC(=C1)[N+](=O)[O-] | C15H8F3N3O4
